US05840732
ii) Synthesis of 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 601 mg (2.5 mmol) of 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine and 473 mg (2.5 mmol) of 5-(ethylthiomethylene)thiazolidine-2,4-dione in 5 ml of N,N-dimethylformamide, 0.37 ml (2.5 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added, followed by stirring at 80° C. for 16 hours. After the reaction mixture was cooled, water was added; the mixture was extracted with ethyl acetate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, hexane/ethyl acetate=1/4→ethyl acetate) to yield 0.76 g (77.2%, light orange oily substance) of the desired product.

reactant | 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine | 2.5 mmol, 601 mg | ClCCCCSC1=CC=CC=2N1C=CN2 | C11H13ClN2S
reactant | 5-(ethylthiomethylene)thiazolidine-2,4-dione | 2.5 mmol, 473 mg | C(C)SC=C1C(NC(S1)=O)=O | C6H7NO2S2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2.5 mmol, 0.37 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | C(C)SC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C17H19N3O2S3
